US08349851B2
To a solution of 2-((4-fluorophenyl)(hydroxy)methyl)-7-methylquinazolin-4-ol (3 g, 10.56 mmol) in acetonitrile (45 mL) was added Dess-Martin periodinane (5.37 g, 12.67 mmol), and the mixture was stirred at rt for 5 h. Saturated sodium hydrogen carbonate solution was then added and the mixture was stirred at rt overnight. This suspension was then filtered and the resulting solid dried to give crude (4-fluorophenyl)(4-hydroxy-7-methylquinazolin-2-yl)methanone (2.65 g, 89%). LC-MS (ESI) m/z 283 (M+H)+.

reactant | 2-((4-fluorophenyl)(hydroxy)methyl)-7-methylquinazolin-4-ol | 10.56 mmol, 3 g | FC1=CC=C(C=C1)C(C1=NC2=CC(=CC=C2C(=N1)O)C)O | C16H13FN2O2
reactant | Dess-Martin periodinane | 12.67 mmol, 5.37 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
product | (4-fluorophenyl)(4-hydroxy-7-methylquinazolin-2-yl)methanone | 2.65 g, 89% | FC1=CC=C(C=C1)C(=O)C1=NC2=CC(=CC=C2C(=N1)O)C | C16H11FN2O2
